US05162322
5-[3-[4-(2-hydroxyphenyl)-1-piperazinyl]propyl]-3-methyl-2-oxazolidinone.
Following the procedure of Example 5, a mixture of 1-(2-hydroxyphenyl)piperazine dihydrobromide (9.6 g, 0.0282 mol), 5-(3-chloropropyl)-3-methyl-2-oxazolidinone (5.0 g, 0.0282 mol), sodium bicarbonate (9.5 g, 0.113 mol), and potassium iodide in 1-butanol (100 ml) gave an oil. The oil was triturated several times with light pet ether (decanting each time) and dissolved in ethyl acetate/isopropyl ether. Cooling the solution gave a solid which was collected by filtration and dried under high vacuum to give 1.80 g (20% yield), mp 112°-116° C.

reactant | 1-(2-hydroxyphenyl)piperazine dihydrobromide | 0.0282 mol, 9.6 g | Br.Br.OC1=C(C=CC=C1)N1CCNCC1
reactant | 5-(3-chloropropyl)-3-methyl-2-oxazolidinone | 0.0282 mol, 5.0 g | ClCCCC1CN(C(O1)=O)C | C7H12ClNO2
reactant | sodium bicarbonate | 0.113 mol, 9.5 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 5-[3-[4-(2-hydroxyphenyl)-1-piperazinyl]propyl]-3-methyl-2-oxazolidinone | 20% yield | OC1=C(C=CC=C1)N1CCN(CC1)CCCC1CN(C(O1)=O)C | C17H25N3O3
